US09062070B2
Step B: tert-butyl (3R)-4-[2-(3-cyano-2-methylphenyl)-2-oxoethyl]-3-(hydroxymethyl)piperazine-1-carboxylate
To a solution of 3-(chloroacetyl)-2-methylbenzonitrile (1.7 g, 8.8 mmol) in THF (17.6 mL) was added (R)-4-N-boc-2-hydroxymethyl-piperazine (2.279 g, 10.54 mmol) and DIPEA (3.07 mL, 17.56 mmol) at rt. The reaction mixture was stirred at rt over the weekend. After concentration, the residue was partitioned between EtOAc and aqueous NaHCO3 (saturated). The aqueous layer was extracted with EtOAc (2×). The combined organic phase was washed with brine, dried over anhydrous MgSO4, and filtered. Concentration was followed by purification by prep TLC (silica gel; 10% MeOH/DCM) to give the title compound: LC/MS (M+1)+=374.14

reactant | 3-(chloroacetyl)-2-methylbenzonitrile | 8.8 mmol, 1.7 g | ClCC(=O)C=1C(=C(C#N)C=CC1)C | C10H8ClNO
reactant | (R)-4-N-boc-2-hydroxymethyl-piperazine | 10.54 mmol, 2.279 g | C(=O)(OC(C)(C)C)N1C[C@@H](NCC1)CO | C10H20N2O3
reactant | DIPEA | 17.56 mmol, 3.07 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 17.6 mL | C1CCOC1 | C4H8O
product | tert-butyl (3R)-4-[2-(3-cyano-2-methylphenyl)-2-oxoethyl]-3-(hydroxymethyl)piperazine-1-carboxylate | C(#N)C=1C(=C(C=CC1)C(CN1[C@H](CN(CC1)C(=O)OC(C)(C)C)CO)=O)C | C20H27N3O4
